US07074777B2
(5) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct (9 g), were added tetrahydrofuran (90 ml) and then potassium t-butoxide (10.5 g), followed by reaction at room temperature for 10 min. After stopping the reaction by adding saturated brine, the reaction mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent and the thus obtained residue was purified by column chromatography (hexane:ethyl acetate=2:1) to give the titled compound (6.34 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 9 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C
reactant | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
reactant | potassium t-butoxide | 10.5 g | CC(C)([O-])C.[K+]
solvent | brine | [Cl-].[Na+].O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 6.34 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | InChI=1S/C32H58O3Si2.C8H5N3O2/c1-29(2,3)36(9,10)34-24-19-22-13-15-25-26-16-14-23(21-33)31(26,7)18-17-27(25)32(22,8)28(20-24)35-37(11,12)30(4,5)6;12-7-9-10-8(13)11(7)6-4-2-1-3-5-6/h13,15,23-24,26-28,33H,14,16-21H2,1-12H3;1-5H/t23-,24-,26+,27+,28+,31-,32+;/m1./s1
